US08633200B2
(2S)-2-(tert-Butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-(2′-methyl-[1,1′-biphenyl]-3-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid
To a solution of (2S)-methyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-(2′-methyl-[1,1′-biphenyl]-3-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate (1.28 g, 2.1 mmol) in dioxane (12 mL) was added 1 N NaOH aqueous solution (9 mL, 9 mmol). The reaction mixture was stirred at 50° C. for 2 h. The reaction mixture was diluted with water (50 ml) and neutralized with acetic acid. The resulted mixture was extracted with ethyl acetate (3×100 ml). The organic phase was combined and dried by sodium sulfate. The solvents were evaporated and the crude product was purified by preparative HPLC to afford (840 mg, 66%) of the title compound. Preparative HPLC condition: Waters Sunfire OBD C18 30×100 mm 5 u, 15 to 60% B over 18 minute gradient, 2 minute hold time, A=5% acetonitrile 95% water 10 mM Ammonium Acetate, B=95% acetonitrile 5% water 10 mM Ammonium Acetate. Flow rate: 40 ml/min. 1H NMR (400 MHz, DMSO-d6) δ 7.86-7.75 (m, 2H), 7.50 (t, J=7.7 Hz, 1H), 7.40-7.22 (m, 5H), 7.18 (s, 1H), 7.09 (d, J=11.0 Hz, 1H), 4.83 (s, 1H), 4.34-4.22 (m, 2H), 2.82-2.66 (m, 5H), 2.24 (s, 3H), 2.13-2.02 (m, 2H), 1.83 (s, 3H), 1.09 (s, 9H).

reactant | (2S)-methyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-(2′-methyl-[1,1′-biphenyl]-3-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate | 2.1 mmol, 1.28 g | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C=2C=C(C=CC2)C2=C(C=CC=C2)C)C | C37H38FN3O4
reactant | NaOH | 9 mmol, 1 N, 9 mL | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | (2S)-2-(tert-Butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-(2′-methyl-[1,1′-biphenyl]-3-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 840 mg, 66% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C=2C=C(C=CC2)C2=C(C=CC=C2)C)C | C36H36FN3O4
